US08877760B2
(R)-5-(1-amino-1-oxopropan-2-ylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)propanamide (97 mg, 0.430 mmol), 6-aminoquinoline (62 mg, 0.430 mmol), K2CO3 (100 mg, 0.724 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)propanamide (15 mg). The compound (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)propanamide (15 mg, 0.045 mmol) was dissolved in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.5 mL) and aq. H2O2 (50%, 0.5 mL) were added. The mixture was stirred at room temperature for 90 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (14 mg). MS 352.58 (M+H); UV 202.9, 265.2, 297.2, 357.9 nm; t 0.335 min.

reactant | (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)propanamide | 0.045 mmol, 15 mg | C(#N)C=1N=CC(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)C | C17H15N7O
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-1-oxopropan-2-ylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide | 14 mg | NC([C@@H](C)NC=1N=C(C(=NC1)C(=O)N)NC=1C=C2C=CC=NC2=CC1)=O | C17H17N7O2
